US08003654B2
5) Synthesis of [(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-acetic acid
To a solution of [(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-acetic acid tert-butylester (1.160 g) in dry DCM (5.5 mL) were added successively triethylsilane (0.423 mL) and TFA (4.8 mL).

reactant | [(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-acetic acid tert-butylester | 1.160 g | C(C)(C)(C)OC(CN(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C1=C(C=CC(=C1)N(C)C)Cl)=O | C22H29ClN2O6S
reactant | triethylsilane | 0.423 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 4.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5.5 mL | C(Cl)Cl | CH2Cl2
product | [(2-chloro-5-dimethylamino-phenyl)-(3,4-dimethoxy-benzenesulfonyl)-amino]-acetic acid | ClC1=C(C=C(C=C1)N(C)C)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC(=O)O | C18H21ClN2O6S
